US04187216
2 g (0.0047 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline cyclooctylamide were dissolved in 10 ml of 4-N hydrogen bromide in acetic acid and the solution was stirred at room temperature for 1 hour. 100 ml of anhydrous ether were added and an oil precipitated out of the solution. The ether layer was decanted off and the oil washed with 100 ml of anhydrous ether. The ether layer was again decanted off and the oil dissolved in 30 ml of dry pyridine. 1.2 g (0.0094 mol) of propionic anhydride were added and the solution was stirred at room temperature for 2 hours. The pyridine was removed by evaporation, 50 ml of toluene were added to the residue and the mixture was again evaporated in order to azeotropically remove any residual pyridine. The solid obtained was taken up in 100 ml of chloroform, the solution was washed with sodium chloride solution and dried over magnesium sulphate. The solution was then evaporated to yield an oil. This oil was dissolved in the minimum volume of ether and petroleum ether was added, whereby a white solid crystallised out of the solution. There was obtained 0.900 g (56.3%) of N-propionyl-L-alanyl-L-proline cyclooctylamide of melting point 142°-143° C.; [α]D20 =-120.3° (c=0.82% in methanol).

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline cyclooctylamide | 0.0047 mol, 2 g | C1(CCCCCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C24H35N3O4
reactant | propionic anhydride | 0.0094 mol, 1.2 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-propionyl-L-alanyl-L-proline cyclooctylamide | 0.900 g, 56.3% | C1(CCCCCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(CC)=O)C)=O)=O | C19H33N3O3
